US06248766B1
Ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate
A mixture of ethyl[(2-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate (2.63 g, 8.04 mmol), ammonium dithiocarbamate (1.06 g, 9.60 mmol), and ethanol (30 mL) was refluxed for 14 hours. After cooling, the solid precipitate was recovered by filtration to provide 1.96 g of the title compound. Amorphous solid. Yield 76%.

reactant | ethyl[(2-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate | 8.04 mmol, 2.63 g | C(C)OC(COC1=C(C=CC=2C(CCCC12)=O)Br)=O | C14H15BrO4
reactant | ammonium dithiocarbamate | 9.60 mmol, 1.06 g | C(N)([S-])=S.[NH4+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | 1.96 g, Yield 76% | C(C)OC(COC1=C2CCC3=C(N=C(S3)S)C2=CC=C1)=O | C15H15NO3S2
